US04757015
L-phenylalanine ammonia-lyase (PAL; EC 4.3.1.5.), is an enzyme found in several plants and also in yeast. It catalyzes the deamination of L-phenylalanine to give trans-cinnamic acid. In 1981, Yamada et al in Applied and Environmental Biology, 42:773-778 (1981) described the use of PAL for the rapid conversion of trans-cinnamic acid to L-phenylalanine, with a conversion yield of above 70%. This publication opened the way to investigate and apply commercially, the use of PAL for the production of phenylalanine.

reactant | L-phenylalanine ammonia | N.N[C@@H](CC1=CC=CC=C1)C(=O)O
reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
product | trans-cinnamic acid | yield of above 70% | C(\C=C\C1=CC=CC=C1)(=O)O | C9H8O2
